US06806265B2
b) 11-Ethyl-5,11-dihydro-8-[2-(4-amino-2-methylphenoxy)ethyl]-5-methyl-6H-dipyrido[3,2-b:2′,3′-e][1,4]diazepin-6-one
A mixture of 1,1-dimethylethyl N-{4-[2-(11-ethyl-6,11-dihydro-5-methyl-6-oxo-5H-dipyrido[3,2-b:2′,3′-e][1,4]diazepin-8-yl)ethoxy]-3-methylphenyl}carbamate (540 mg, 1.07 mmol) and 4 N HCl in 1,4-dioxane (5.0 mL, 20 mmol) was stirred at 25° C. for 2 h. The reaction mixture was concentrated under reduced pressure. The residue was taken in water (6 mL) and the resulting solution was washed with EtOAc. The aqueous layer was rendered basic (pH 9) with aqueous 2 N NaOH solution and the mixture was extracted with EtOAc. The organic layer was dried (MgSO4), filtered and concentrated under reduced pressure to yield the title compound (398 mg, 92% yield) as a beige foam.

reactant | 1,1-dimethylethyl N-{4-[2-(11-ethyl-6,11-dihydro-5-methyl-6-oxo-5H-dipyrido[3,2-b:2′,3′-e][1,4]diazepin-8-yl)ethoxy]-3-methylphenyl}carbamate | 1.07 mmol, 540 mg | C(C)N1C2=C(N(C(C3=C1N=CC(=C3)CCOC3=C(C=C(C=C3)NC(OC(C)(C)C)=O)C)=O)C)C=CC=N2 | C28H33N5O4
reactant | HCl | 4 N | Cl | ClH
reactant | 1,4-dioxane | 20 mmol, 5.0 mL | O1CCOCC1 | C4H8O2
product | 11-Ethyl-5,11-dihydro-8-[2-(4-amino-2-methylphenoxy)ethyl]-5-methyl-6H-dipyrido[3,2-b:2′,3′-e][1,4]diazepin-6-one | 398 mg, 92% yield | C(C)N1C2=C(N(C(C3=C1N=CC(=C3)CCOC3=C(C=C(C=C3)N)C)=O)C)C=CC=N2 | C23H25N5O2
